US07786165B2
(4-isobutoxy-3-{[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl}phenyl)methanol
To a mixture of 4-isobutoxy-3-{[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzaldehyde (1.43 g, 3.04 mmol), methanol (5 mL) and tetrahydrofuran (10 mL) was added sodium borohydride (58 mg, 1.52 mmol) under stirring at 0° C., and the mixture was stirred at the same temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-1/1) to give the title compound (1.28 g, yield 88%) as colorless crystals.

reactant | 4-isobutoxy-3-{[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzaldehyde | 3.04 mmol, 1.43 g | C(C(C)C)OC1=C(C=C(C=O)C=C1)CN(C=1SC=C(N1)C1=CC=CC=C1)CCC1=CC=CC=C1 | C29H30N2O2S
reactant | methanol | 5 mL | CO | CH4O
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | sodium borohydride | 1.52 mmol, 58 mg | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-isobutoxy-3-{[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl}phenyl)methanol | 1.28 g, yield 88% | C(C(C)C)OC1=C(C=C(C=C1)CO)CN(C=1SC=C(N1)C1=CC=CC=C1)CCC1=CC=CC=C1 | C29H32N2O2S
